US04486432
Preparation of 5,8-dihydroxyquinoxaline
Ten grams of 5,8-dimethoxyquinoxaline were dissolved in 100 ml. of glacial acetic acid. After 60 ml. of 48% hydrobromic acid were added to the solution, the reaction was allowed to reflux overnight. The solution was evaporated to dryness in vacuo and a solution of 5% sodium bicarbonate was added until the reaction was basic. The solution was extracted several times with methylene chloride. The combined methylene chloride extracts were dried with sodium sulfate and evaporated to give an amorphous powder which was used without purification for the subsequent reactions.

reactant | 5,8-dimethoxyquinoxaline | Ten grams | COC1=C2N=CC=NC2=C(C=C1)OC | C10H10N2O2
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5,8-dihydroxyquinoxaline | OC1=C2N=CC=NC2=C(C=C1)O | C8H6N2O2
